US08748627B2
2-fluoro-5-isopropoxypyridine
To a solution of 2-fluoro-5-hydroxypyridine (6.000 g, 53.05 mmol) in N,N-dimethyl formamide (50 mL) cooled with an ice bath was added NaH (2.80 g, 60%, 70.0 mml) in several potions. After the addition, the mixture was stirred at 0° C. for 10 minutes. 2-iodopropane (6.5 mL, 65.00 mmol) was added. The mixture was stirred at room temperature for 2 hours. The mixture was poured into water, extracted with ether (2×), the combined extracts were washed with 1N NaOH (1×), water (1×), brine (1×), dried over MgSO4 and concentrated to give the product that was used directly without further purification.

reactant | 2-fluoro-5-hydroxypyridine | 53.05 mmol, 6.000 g | FC1=NC=C(C=C1)O | C5H4FNO
reactant | NaH | 2.80 g | [H-].[Na+]
reactant | 2-iodopropane | 65.00 mmol, 6.5 mL | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-fluoro-5-isopropoxypyridine | FC1=NC=C(C=C1)OC(C)C | C8H10FNO
